** sch_path: /foss/designs/CHIP-PLL/schematics/misc/level_shifter.sch
**.subckt level_shifter vph out vpl in gd
*.ipin in
*.opin out
*.ipin gd
*.ipin vph
*.ipin vpl
XM1 1_stage_out in vpl vpl sg13_lv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM3 1_stage_out in net1 gd sg13_lv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM4 net1 in gd gd sg13_lv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM2 2_stage_out 1_stage_out vpl vpl sg13_lv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM5 2_stage_out 1_stage_out net4 gd sg13_lv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM6 net4 1_stage_out gd gd sg13_lv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM7 net2 3_stage_out vph vph sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM8 3_stage_out 2_stage_out gd gd sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM9 4 1_stage_out net2 vph sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM10 3_stage_out 2_stage_out net3 vph sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM11 net3 4 vph vph sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM12 4 1_stage_out gd gd sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM15 out 3_stage_out vph vph sg13_hv_pmos w=4u l=0.45u ng=1 m=1 mm_ok=1
XM14 out 3_stage_out net5 gd sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM13 net5 3_stage_out gd gd sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
**.ends
.end
